US04251233
Absolute ethanol (1035 ml) was added to 306 grams of neopentanoic acid (Exxon) in a flask fitted with a heating mantle and a reflux condenser. To this mixture was slowly added 65 ml of concentrated sulfuric acid (Mallinckrodt). The mixture was then heated under reflux for three hours. Heating was discontinued and the hot mixture was extracted with 4 liters of a 10% sodium carbonate solution. The organic layer which separated was collected and dried overnight with magnesium sulfate. It was then filtered and purified by distillation at atmospheric pressure. A low heat was first applied in order to collect a fraction at a temperature of 73° C. consisting principally of ethanol. When the head temperature began to drop, the heat was raised and a second fraction, consisting of ethyl pivalate was collected from 108°-111° C. This pure ethyl pivalate (yield about 77%) was then dried over magnesium sulfate.

reactant | neopentanoic acid | 306 grams | C(C(C)(C)C)(=O)O | C5H10O2
reactant | sulfuric acid | 65 ml | S(O)(O)(=O)=O | H2O4S
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ethanol | 1035 ml | C(C)O | C2H6O
product | ethyl pivalate | yield about 77% | C(C(C)(C)C)(=O)OCC | C7H14O2
